### PR TITLE
Add integral representation for `StatInfo`

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
- Add statement and partial proof of `toReal_statInfo_eq_min_sub_integral'` and `statInfo_eq_abs_add_lintegral_abs` (they are not used in the next proofs.
- Add `toReal_statInfo_eq_integral_max_of_le` and `toReal_statInfo_eq_integral_max_of_gt` (integral form representation of `StatInfo`).
- Add statements of `statInfo_eq_lintegral_max_of_le` and `statInfo_eq_lintegral_max_of_gt`.
- Add lemmas about the `rnDeriv`: `rnDeriv_eq_zero_ae_of_zero_measure`, `rnDeriv_eq_zero_ae_of_singularPartSet` and `rnDeriv_mul_rnDeriv'`.
- Add lemmas about `SetIntegral` and `SetLIntegral`: `setIntegral_rnDeriv_smul`, `setIntegral_zero_measure`,  `setLIntegral_eq_zero_iff'`, `setLIntegral_eq_zero_iff`.
- Update blueprint.
- Cleanup.

### CODE REVIEW

File: TestingLowerBounds/Divergences/StatInfo.lean [hunk 1]
```diff
@@ -145,6 +146,252 @@ lemma toReal_statInfo_eq_min_sub_integral (μ ν : Measure 𝒳) [IsFiniteMeasur
...
+      swap
+      · exact (integrable_zero _ _ _).sup
+          ((Measure.integrable_toReal_rnDeriv.const_mul _).sub (integrable_const _))
+      rw [setIntegral_zero_measure _ (Measure.measure_singularPartSet μ ν), zero_add]
+
+
+lemma toReal_statInfo_eq_integral_max_of_gt {μ ν : Measure 𝒳} [IsFiniteMeasure μ] [IsFiniteMeasure ν]
+    {π : Measure Bool} [IsFiniteMeasure π] (h : π {true} * ν univ < π {false} * μ univ) :
+    (statInfo μ ν π).toReal
+      = ∫ x, max 0 ((π {true}).toReal - (π {false} * (∂μ/∂ν) x).toReal) ∂ν := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/Divergences/StatInfo.lean:302]: Is it possible to get a shorter proof of that one with `statInfo_symm` and `toReal_statInfo_eq_integral_max_of_le`?

**Review by RemyDegenne — APPROVED** [review]
